US05342846
1-Cyclopropyl-6,8-difluoro-5-methyl-7-[4-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
4-(1,2,3-triazol-1-yl)piperidine hydrochloride (126 mg, 0.66 mmol) and DBU (130 mg, 0.85 mmol) were added to a suspension of 1-cyclopropyl-5-methyl-6,7,8-trifluoro -1,4-dihydro-4-oxoquinoline-3-carboxylic acid (100 mg, 0.34 mmol) in acetonitrile (10 ml). The reaction mixture was refluxed for 24 hrs and then concentrated to dryness. The reaction was diluted with water. The separated solid was filtered and washed with water, acetonitrile and dried to give 70 mg of desired product. m.p. 261°-263° C.; 1H NMR (TFA) δ: 9.36 (s, 1H), 8.55 (s, 1H), 8.62 (s, 1H), 5.25 (m, 1H), 4.60 (m, 1H), 4.12 (m, 2H), 3.80 (m, 2H), 2.94 (s, 3H), 2.60 (m, 4H), 1.30-1.68 (m, 4H).

reactant | 4-(1,2,3-triazol-1-yl)piperidine hydrochloride | 0.66 mmol, 126 mg | Cl.N1(N=NC=C1)C1CCNCC1
reactant | DBU | 0.85 mmol, 130 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-cyclopropyl-5-methyl-6,7,8-trifluoro -1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.34 mmol, 100 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C14H10F3NO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-5-methyl-7-[4-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 70 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCC(CC1)N1N=NC=C1)F)C)=O)C(=O)O | C21H21F2N5O3
